US07655652B2
1-Acetyl-4-(2-methyl-4-nitrophenyl)piperazine
1-Butyl-3-methylimidazolium tetrafluoroborate (1.75 g, 7.74 mmol) was added to a stirred solution of 1-fluoro-2-methyl-4-nitrobenzene (12 g, 77.35 mmol) and 1-acetylpiperazine (39.7 g, 309.4 mmol) in acetonitrile (3 ml). The reaction mixture was then heating at 95° C. overnight. The reaction mixture was allowed to cool down to room temperature. The solution was diluted with EtOAc and water. The precipitate formed was filtered off to give a solid corresponding to the required product. The organics were washed with water (4 times), brine, dried and evaporation of solvent to give a solid. Both solids were combined and after trituration with isohexane/ether and filtration, the title compound was obtained as a yellow solid which was dried in vac oven overnight at 50° C. (19.61 g, 96%). NMR (400 MHz) 2.06 (s, 3H), 2.38 (s, 3H), 2.99 (dt, 4H), 3.61 (m, 4H), 7.14 (d, 1H), 8.04 (dd, 1H), 8.07 (d, 1H); m/z 264.

reactant | 1-Butyl-3-methylimidazolium tetrafluoroborate | 7.74 mmol, 1.75 g | F[B-](F)(F)F.C(CCC)[N+]1=CN(C=C1)C
reactant | 1-fluoro-2-methyl-4-nitrobenzene | 77.35 mmol, 12 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | 1-acetylpiperazine | 309.4 mmol, 39.7 g | C(C)(=O)N1CCNCC1 | C6H12N2O
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 1-Acetyl-4-(2-methyl-4-nitrophenyl)piperazine | C(C)(=O)N1CCN(CC1)C1=C(C=C(C=C1)[N+](=O)[O-])C | C13H17N3O3
